US09108936B2
Copper(I) cyanide (1.07 g, 11.9 mmol) is added to dimethylsulfoxide (15 ml) at 50° C. followed by the addition of tert-Butyl nitrite (3.8 ml, 27.6 mmol) at once. A solution of (2-isopropyl-6-methoxy-4-morpholin-4-yl-phenyl)-amine (2.3 g, 9.2 mmol) in dimethylsulfoxide (15 ml) is added drop wise via an addition funnel to the above mixture. After completion of the addition, the reaction mixture is allowed to stir for 1 h at 50° C. After being cooled to 45° C., the reaction mixture is slowly treated with 5N hydrochloric acid and cooled to ambient temperature. The resulting mixture is extracted with ethyl acetate (3×50 ml). The combined organic layers are washed with water (30 ml), brine (30 ml), dried over sodium sulfate and evaporated to dryness. The crude product is purified by flash column chromatography (silica gel, 20% ethyl acetate/hexane) to afford 2-isopropyl-6-methoxy-4-morpholin-4-yl-benzonitrile (0.4 g, 1.54 mmol, 17%).

reactant | Copper(I) cyanide | 11.9 mmol, 1.07 g | [Cu]C#N
reactant | tert-Butyl nitrite | 27.6 mmol, 3.8 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | (2-isopropyl-6-methoxy-4-morpholin-4-yl-phenyl)-amine | 9.2 mmol, 2.3 g | C(C)(C)C1=C(C(=CC(=C1)N1CCOCC1)OC)N | C14H22N2O2
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 2-isopropyl-6-methoxy-4-morpholin-4-yl-benzonitrile | 1.54 mmol, 0.4 g, 17% | C(C)(C)C1=C(C#N)C(=CC(=C1)N1CCOCC1)OC | C15H20N2O2
